US03974150
A mixture of (3S,5R,6R)-6-amino-2,2-dimethylpenam-3-carboxylic acid (6APA, 2.2056 g., 10.21 mmole), trimethyl chlorosilane (2.615 ml., 20.42 mmole), and triethylamine (2.84 ml., 20.3 mmole) in tetrahydrofuran, (50 ml.) was stirred for 1 hour at +20° to +25° and then cooled to -70°. To this solution at -70° was added a cold (-60 to -70°) solution of formic-acetic anhydride [generated by stirring formic acid (470 mg., 10.2 mmole), acetyl chloride (0.726 ml., 10.2 mmole) and triethylamine (1.42 ml., 10.2 mmole) at -60 to -70° in tetrahydrofuran (40 ml.). The solution contained suspended triethylamine hydrochloride] and triethylamine (1.42 ml., 10.2 mmole). The temperature of the mixture was allowed to rise to +20° over ca. 1 hour and the mixture was then filtered. The filtrate and washings were stirred and a solution of sodium 2ethylhexanoate (2 g., 12 mmole) in tetrahydrofuran (2ml.) and ether (18 ml.) was added. The white precipitate was isolated by filtration, washed with ether and dried to give sodium (3S,5R,6R)-6-formamido-2,2-dimethylpenam-3-carboxylate as a white powder (1.6127 g., 6.06 mmole, 59.4%); m.p. 238° to 242° (dec.); [α]D + 281° (H2O); νmax. 3412 (NH), 1790 (azetidin-2-one), 1677 and 1505 (CONH), 1602 cm.-1 (CO2 -); τ 1.28 (1H, d, J 9 Hz, NH), 1.90 (1H, s, HCO), 4.40 to 4.60 (2H, m, C5 -H and C6 -H), 6.01 (1H,s, C3 -H), 8.42 (3H, s) and 8.50 (3H,s) (C[CH3 ]2). (Found : C, 40.7; H, 4.3; N, 10.3; Na, 8.6; S, 11.7. C9H11N2NaO4S (266.3) requires C, 40.5; H, 4.1; N, 10.5; Na, 8.6; S, 12.0%).

reactant | (3S,5R,6R)-6-amino-2,2-dimethylpenam-3-carboxylic acid | 10.21 mmole, 2.2056 g | N[C@H]1[C@@H]2N([C@H](C(S2)(C)C)C(=O)O)C1=O | C8H12N2O3S
reactant | trimethyl chlorosilane | 20.42 mmole, 2.615 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 20.3 mmole, 2.84 ml | C(C)N(CC)CC | C6H15N
reactant | formic-acetic anhydride | C(C)(=O)OC=O | C3H4O3
reactant | formic acid | 10.2 mmole, 470 mg | C(=O)O | CH2O2
reactant | acetyl chloride | 10.2 mmole, 0.726 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 10.2 mmole, 1.42 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
reactant | triethylamine | 10.2 mmole, 1.42 ml | C(C)N(CC)CC | C6H15N
reactant | sodium 2ethylhexanoate | 12 mmole, 2 g | C(C)C(C(=O)[O-])CCCC.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2ml | O1CCCC1 | C4H8O
solvent | ether | 18 ml | CCOCC | C4H10O
product | sodium (3S,5R,6R)-6-formamido-2,2-dimethylpenam-3-carboxylate | C(=O)N[C@H]1[C@@H]2N([C@H](C(S2)(C)C)C(=O)[O-])C1=O.[Na+] | InChI=1S/C9H12N2O4S.Na/c1-9(2)5(8(14)15)11-6(13)4(10-3-12)7(11)16-9;/h3-5,7H,1-2H3,(H,10,12)(H,14,15);/q;+1/p-1/t4-,5+,7-;/m1./s1
